US08895582B2
To a solution of (2S,4R)-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-4-hydroxy-5-(phosphonooxy)pentyl isoquinolin-3-ylcarbamate in MeOH (50 mL) at 0° C. was added NaOH solution (0.5 N, 16 mL, 2 equiv.) dropwise. The solution was stirred at 0° C. for 1 h and concentrated to give sodium (2R,4S)-4-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-2-hydroxy-5-(isoquinolin-3-ylcarbamoyloxy)pentyl phosphate as a white solid (quant.). The solid could be further crystallized by trituration with EtOH, followed by re-crystallization from EtOH—H2O (6:1) to give the crystalline form. LRMS (M−2Na+3H+) m/z 585.5.

reactant | (2S,4R)-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-4-hydroxy-5-(phosphonooxy)pentyl isoquinolin-3-ylcarbamate | C1=NC(=CC2=CC=CC=C12)NC(OC[C@H](C[C@H](COP(=O)(O)O)O)N(C(=O)NCC1=C(C(=CC=C1)F)Cl)C)=O | C24H27ClFN4O8P
reactant | NaOH | 0.5 N, 16 mL, 2 equiv. | [OH-].[Na+]
solvent | MeOH | 50 mL | CO | CH4O
product | sodium (2R,4S)-4-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-2-hydroxy-5-(isoquinolin-3-ylcarbamoyloxy)pentyl phosphate | P(=O)(OC[C@@H](C[C@@H](COC(NC=1N=CC2=CC=CC=C2C1)=O)N(C(=O)NCC1=C(C(=CC=C1)F)Cl)C)O)([O-])[O-].[Na+].[Na+] | InChI=1S/C24H27ClFN4O8P.2Na/c1-30(23(32)28-12-17-7-4-8-20(26)22(17)25)18(10-19(31)14-38-39(34,35)36)13-37-24(33)29-21-9-15-5-2-3-6-16(15)11-27-21;;/h2-9,11,18-19,31H,10,12-14H2,1H3,(H,28,32)(H,27,29,33)(H2,34,35,36);;/q;2*+1/p-2/t18-,19+;;/m0../s1
